* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4077 1 2 3 4 5
R1 Inn1 2 {Rser} Temp=-273.15
C1 Clamp COM {Cfp1}
B1 COM Clamp I=Uplim(Dnlim({Aol2/1Meg}* V(Aol1,COM), {Isink}-V(OL,COM)* 0.2, 20m), {Isrc}+V(OL,COM)*0.2, 20m)
A1 Inn2 Inp2 COM COM COM COM Aol1 COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
G2 0 VCC_Int N045 0 1
G3 0 Vee_Int N058 0 1
R6 VCC_Int 0 1 Temp=-273.15
R7 Vee_Int 0 1 Temp=-273.15
R8 N041 VCC_Int 1Meg Temp=-273.15
R9 N041 Vee_Int 1Meg Temp=-273.15
C2 N041 0 1
E1 COM 0 N041 0 1
R10 COM 0 1Meg Temp=-273.15
R25 Aol2 COM 1Meg Temp=-273.15
C7 Aol2 COM {Cfp2}
G7 COM Aol2 Clamp COM 1µ
Cinp COM Inp1 {Ccm}
Cinn Inn1 COM {Ccm}
Cdiff Inp1 Inn1 {Cdiff}
Rinn Inn1 COM {Rcm} Temp=-273.15
Ibp Inp1 COM {Ib}
Ibn Inn1 COM {Ib-Ios}
R26 N015 N018 1k Temp=-273.15
B3 N018 N015 I=1m*{Vos+Drift* (Temp-25)}
G6 N022 Inp2 N032 N036 1m
R28 Inp2 N022 1k Temp=-273.15
C8 N032 N033 {C1a_PSRp}
G8 COM N033 VCC_Int COM {G1_PSRp}
R29 N033 COM 1 Temp=-273.15
R30 N032 N033 {R1a_PSRp} Temp=-273.15
R31 N032 COM {R2a_PSRp} Temp=-273.15
G12 N016 N017 N007 COM 1m
R39 N017 N016 1k Temp=-273.15
Vimon N014 5 0
BIq N045 N058 I=IF(V(EN,COM)>0.5, {Iq_on},{Iq_off})
G1 COM N018 Inp1 COM 1k
G14 COM Inn2 Inn1 COM 1k
R5 COM N018 1m Temp=-273.15
R43 COM Inn2 1m Temp=-273.15
C12 Inn2 COM 1p
C13 N018 COM 1p
DIP N034 Inp2 DI
DIN Inp2 N035 DI
C14 VCC_Int 0 1n
C15 Vee_Int 0 1n
DOP Vsatp N013 DO
DON N013 Vsatn DO
DGP N037 Clamp DGP
DGN Clamp N038 DGN
S2 Cap2R Cap2L OL COM OL
F1 COM OLp VGP 1m
A4 OLp OLn COM COM COM COM OL COM OR Ref=100u Vh=50u Trise=10n
R44 OLp COM 1k
F2 COM OLn VGN -1m
R45 OLn COM 1k
C16 OLp COM 1n
C17 OLn COM 1n
DOI N013 N014 LIM
COI N014 N013 1p
G15 COM Vsatp Vsatpi COM 1
R48 Vsatp COM 1
C21 Vsatp COM 1n
G16 COM Vsatn Vsatni COM 1
R49 Vsatn COM 1
C22 Vsatn COM 1n
S3 3 N018 N018 3 ESDI
S4 3 Inn2 Inn2 3 ESDI
S5 N018 4 4 N018 ESDI
S6 Inn2 4 4 Inn2 ESDI
C24 N013 Vsatp 1f
C25 N013 Vsatn 1f
S7 3 5 5 3 ESDO
S8 5 4 4 5 ESDO
C26 OL COM 1p
B6 COM N039 I=1m*({Zo_max}* {Iscp}+V(3,COM)) Rpar=1k Cpar=1n
G18 COM GRp N039 COM 1
R51 GRp COM 1
G19 COM GRn N040 COM 1
R52 GRn COM 1
B7 COM N040 I=1m*({Zo_max}* {Iscn}+V(4,COM)) Rpar=1k Cpar=1n
VGP N037 GRp 0
VGN N038 GRn 0
G17 COM Vs 3 4 1m
R50 Vs COM 1k Temp=-273.15
A5 Vs COM COM COM COM COM VminGD COM SCHMITT Vt={Vsmin-50m} Vh=10m Trise=5n
A6 Vs COM COM COM COM VmaxGD COM COM SCHMITT Vt={Vsmax-50m} Vh=10m Trise=5n
A7 VminGD COM COM COM VmaxGD COM EN COM AND Trise=5n
R53 EN COM 1G Temp=-273.15
R54 VmaxGD COM 1G Temp=-273.15
R55 COM VminGD 1G Temp=-273.15
S9 COM Aol1 EN COM ENA
S10 COM Clamp EN COM ENA
Rx N013 N019 {Rx_Zo} Temp=-273.15
Rdummy N013 COM {Rdummy_Zo} Temp=-273.15
G20 COM Cap2L N025 N013 {G1_Zo}
R3 Cap2L COM 1 Temp=-273.15
R4 Cap2L Cap2R {R1a_Zo} Temp=-273.15
R17 Cap2R COM {R2a_Zo} Temp=-273.15
G21 COM N008 Cap2R COM {G2_Zo}
C20 Cap2R Cap2L {C1a_Zo}
R56 N010 COM 1 Temp=-273.15
R57 N010 N011 {R2c_Zo} Temp=-273.15
R58 N011 N023 {R1c_Zo} Temp=-273.15
C23 COM N023 {C1c_Zo}
Gb3 COM N012 N011 COM 1
R59 N019 COM 1 Temp=-273.15
B8 COM N019 I=Uplim(Dnlim({G4_Zo}*V(ZoF,COM), {IZon}, 25m), {IZop}, 25m)
R60 N012 COM 1 Temp=-273.15
R61 N012 ZoF {R1d_Zo} Temp=-273.15
R62 ZoF COM {R2d_Zo} Temp=-273.15
C27 ZoF N012 {C1d_Zo}
R63 N008 COM 1 Temp=-273.15
R64 N008 N009 {R1b_Zo} Temp=-273.15
R65 N009 COM {R2b_Zo} Temp=-273.15
G22 COM N010 N009 COM {G3_Zo}
C28 N009 N008 {C1b_Zo}
R11 N024 COM 1Meg Temp=-273.15
C29 N024 COM {Cfp2}
G24 COM N024 Aol2 COM 1µ
R16 N025 COM 1Meg Temp=-273.15
C30 N025 COM {Cfp2}
G25 COM N025 N024 COM 1µ
C3 N002 N001 {C1a_CMR}
G4 COM N001 Inp1 COM {G1_CMR}
R13 N002 N001 {R1a_CMR} Temp=-273.15
R14 N002 COM {R2a_CMR} Temp=-273.15
R15 N003 N004 {R1b_CMR} Temp=-273.15
R18 N004 COM {R2b_CMR} Temp=-273.15
G5 COM N005 N004 COM {G2_CMR}
C4 N004 N003 {C1b_CMR}
R19 N003 COM 1
G23 COM N003 N002 COM 1
R20 N005 N006 {R1c_CMR} Temp=-273.15
R21 N006 COM {R2c_CMR} Temp=-273.15
G26 COM N007 N006 COM {G3_CMR}
C5 N006 N005 {C1c_CMR}
R22 N005 COM 1 Temp=-273.15
R23 N007 COM 1
R12 N001 COM 1 Temp=-273.15
C6 N027 N026 {C1a_PSRn}
G9 COM N026 VEE_Int COM {G1_PSRn}
R32 N026 COM 1 Temp=-273.15
R33 N027 N026 {R1a_PSRn} Temp=-273.15
R34 N027 COM {R2a_PSRn} Temp=-273.15
C9 N029 N028 {C1b_PSRn}
R35 N028 COM 1 Temp=-273.15
R40 N029 N028 {R1b_PSRn} Temp=-273.15
R41 N029 COM {R2b_PSRn} Temp=-273.15
G10 COM N030 N029 COM {G2_PSRn}
R42 N036 COM 1 Temp=-273.15
G13 COM N028 N027 COM 1
C11 N031 N030 {C1c_PSRn}
R66 N030 COM 1 Temp=-273.15
R67 N031 N030 {R1c_PSRn} Temp=-273.15
R68 N031 COM {R2c_PSRn} Temp=-273.15
G27 COM N036 N031 COM {G3_PSRn}
A8 COM COM COM COM COM COM N052 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fA}/(freq**{M})
R36 N046 COM 1 Temp=-273.15
R37 N048 N049 {R1a_E_n} Temp=-273.15
R38 N049 COM {R2a_E_n} Temp=-273.15
G11 COM N050 N049 COM {G1_E_n}
C10 N049 N048 {C1a_E_n}
R69 N050 COM 1 Temp=-273.15
R70 N050 N051 {R1a_E_n} Temp=-273.15
R71 N051 COM {R2a_E_n} Temp=-273.15
G28 COM N054 N051 COM {1u*G1_E_n}
C31 N051 N050 {C1a_E_n}
R72 N054 COM 1Meg Temp=-273.15
C32 N054 COM {CEn}
G29 COM N055 N054 COM 1µ
R73 N055 COM 1Meg Temp=-273.15
G30 COM E_np N056 COM 1µ
R74 E_np COM 1Meg Temp=-273.15
R75 N052 COM 100k Temp=-273.15
G31 COM N046 N053 COM 1
R76 N046 N047 {R1a_E_n} Temp=-273.15
R77 N047 COM {R2a_E_n} Temp=-273.15
G32 COM N048 N047 COM {G1_E_n}
C33 N047 N046 {C1a_E_n}
R78 N048 COM 1 Temp=-273.15
A9 COM N052 COM COM COM COM N053 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={Enp}
R79 N053 COM 100k Temp=-273.15
C35 E_np COM 15f
G33 COM N056 N055 COM 1µ
R80 N056 COM 1Meg Temp=-273.15
R81 N016 N015 1k Temp=-273.15
G34 N015 N016 E_np COM 1m
B2 COM N042 I=1m*(V(3,COM)+{Vcm_max}) Rpar=1k Cpar=1n
G36 COM CMp N042 COM 1
R24 CMp COM 1
B9 COM N043 I=1m*(V(4,COM)+{Vcm_min}) Rpar=1k Cpar=1n
G37 COM CMn N043 COM 1
R27 CMn COM 1
VIP N034 CMp 0
VIN CMn N035 0
A10 COM COM COM COM COM COM N059 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fAi}/(freq**{Mi})
R83 N059 COM 100k Temp=-273.15
A11 COM N059 COM COM COM COM N060 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BBi}
R84 N060 COM 100k Temp=-273.15
F3 Inp1 COM V_I_n 1
Gb1 COM N061 N060 COM 1
R85 N062 COM 1 Temp=-273.15
V_I_n N061 N062 0
F4 Inn1 COM V_I_n 1
R86 Vsatp2 3 1k
C37 Vsatp2 3 1n
B10 4 Vsatn1 I=1m*Max(Mn*(-I(Vimon))+OSn,40u)
R87 Vsatn1 4 1k
C38 Vsatn1 4 1n
B11 4 Vsatn2 I=1m*(An+((Bn*(-I(Vimon)**Cn))/((Dn**Cn)+(-I(Vimon)**Cn))))
R88 Vsatn2 4 1k
C39 Vsatn2 4 1n
B12 COM Vsatni I=1m*IF(-I(Vimon)>15m, V(Vsatn2,COM), V(Vsatn1,COM))
R89 Vsatpi COM 1k
C40 Vsatpi COM 1n
B13 Vsatp1 3 I=1m*Max(Mp*(I(Vimon))+OSp,40u)
R90 Vsatp1 3 1k
C41 Vsatp1 3 1n
B14 COM Vsatpi I=1m*IF(I(Vimon)>16m, V(Vsatp2,COM), V(Vsatp1,COM))
R91 Vsatni COM 1k
C42 Vsatni COM 1n
B15 Vsatp2 3 I=1m*Max(Ap+((Bp*(I(Vimon)**Cp))/((Dp**Cp)+(I(Vimon)**Cp))),40u)
G35 COM N022 N017 COM 1k
R46 COM N022 1m Temp=-273.15
Rinp COM Inp1 {Rcm} Temp=-273.15
R2 Inp1 1 {Rser} Temp=-273.15
F5 N045 N058 Vimon 1
C18 N055 COM {CEn}
C19 N056 COM {CEn}
R47 N045 3 1µ
R82 N058 4 1µ
.param Vos=-1.94u Drift=0.1u
.param Ib=-0.4n Ios=0.1n
.param Vcm_min=1.2 Vcm_max=-2
.param Vsmin=3 Vsmax=36
.param Iscp=22m Iscn=-22m
.param Iq_on=400u Iq_off=1u
.param IZop={2*Rx_Zo*Iscp} IZon={2*Rx_Zo*Iscn}
.model DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1)
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u)
.model DGP D(Vfwd=1k Vrev=0 Revepsilon=0.5)
.model DGN D(Vfwd=1k Vrev=0 Revepsilon=0.5)
.model ESDI SW(Ron=50 Roff=1T Vt=31.6 Vh=-500m Vser=0.1)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n)
.model OL SW(Ron=10m Roff=1G Vt=500m Vh=-100m)
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron=1 Roff=1u Vt=500m Vh=-100m Noiseless)
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param beta_Zo=1.14
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=1.58k
.param Zo_max=1.58k
.param R1a_Zo=10k
.param fz1_Zo=0.96
.param fp1_Zo=9.8
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1c_Zo=10k
.param fp3_Zo=7.1Meg
.param fz3_Zo=12.5Meg
.param C1c_Zo = {1 / (fz3_Zo * R1c_Zo * 2 * pi)}
.param R2c_Zo = {(1 / (fp3_Zo * C1c_Zo * 2 * pi))
+- R1c_Zo}
.param R1b_Zo=10k
.param fz2_Zo=33.5k
.param fp2_Zo=45.5k
.param C1b_Zo = {1 / (2 * pi * R1b_Zo * fz2_Zo)}
.param R2b_Zo = {R1b_Zo/ ((2 * pi * fp2_Zo * C1b_Zo
+* R1b_Zo) - 1)}
.param actual3_Zo = {R2b_Zo / (R1b_Zo + R2b_Zo)}
.param G3_Zo = {1/actual3_Zo}
.param R1d_Zo=10k
.param fz4_Zo=96Meg
.param fp4_Zo=100G
.param C1d_Zo = {1 / (2 * pi * R1d_Zo * fz4_Zo)}
.param R2d_Zo = {R1d_Zo/ ((2 * pi * fp4_Zo * C1d_Zo
+* R1d_Zo) - 1)}
.param actual4_Zo = {R2d_Zo / (R1d_Zo + R2d_Zo)}
.param G4_Zo = {1/actual4_Zo}
.param Aol_PB=135.06
.param SRp=1.3 SRn=-1.3
.param fp1=0.695 fp2=21.15Meg
.param Rser=1m
.param Ccm=5p Rcm=70G
.param Cdiff=3p ;Rdiff=100T
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=149.5
.param R1a_CMR=1Meg
.param fz1_CMR=70m
.param fp1_CMR=10
.param R1b_CMR=1Meg
.param fz2_CMR=6k
.param fp2_CMR=200k
.param C1b_CMR = {1 / (2 * pi * R1b_CMR * fz2_CMR)}
.param R2b_CMR = {R1b_CMR/ ((2 * pi * fp2_CMR * C1b_CMR
+* R1b_CMR) - 1)}
.param actual2_CMR = {R2b_CMR / (R1b_CMR + R2b_CMR)}
.param G2_CMR = {1/actual2_CMR}
.param R1c_CMR=1Meg
.param fz3_CMR=300k
.param fp3_CMR=10Meg
.param C1c_CMR = {1 / (2 * pi * R1c_CMR * fz3_CMR)}
.param R2c_CMR = {R1c_CMR/ ((2 * pi * fp3_CMR * C1c_CMR
+* R1c_CMR) - 1)}
.param actual3_CMR = {R2c_CMR / (R1c_CMR + R2c_CMR)}
.param G3_CMR = {1/actual3_CMR}
.param Rej_dc_PSRp=128
.param R1a_PSRp=100Meg
.param fz1_PSRp=1.6
.param fp1_PSRp=4Meg
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param Rej_dc_PSRn=128
.param R1a_PSRn=1Meg
.param fz1_PSRn=0.35
.param fp1_PSRn=10
.param C1b_PSRn = {1 / (2 * pi * R1b_PSRn * fz2_PSRn)}
.param R2b_PSRn = {R1b_PSRn/ ((2 * pi * fp2_PSRn * C1b_PSRn
+* R1b_PSRn) - 1)}
.param actual2_PSRn = {R2b_PSRn/ (R1b_PSRn + R2b_PSRn)}
.param G2_PSRn = {1/actual2_PSRn}
.param R1b_PSRn=1Meg
.param fz2_PSRn=950
.param fp2_PSRn=4.1Meg
.param C1c_PSRn = {1 / (2 * pi * R1c_PSRn * fz3_PSRn)}
.param R2c_PSRn = {R1c_PSRn/ ((2 * pi * fp3_PSRn * C1c_PSRn
+* R1c_PSRn) - 1)}
.param actual3_PSRn = {R2c_PSRn/ (R1c_PSRn + R2c_PSRn)}
.param G3_PSRn = {1/actual3_PSRn}
.param R1c_PSRn=1Meg
.param fz3_PSRn=200k
.param fp3_PSRn={fp2_PSRn}
.param R1a_E_n=1Meg
.param fz1_E_n=2.2Meg
.param fp1_E_n=5.2Meg
.param C1a_E_n = {1 / (2 * pi * R1a_E_n * fz1_E_n)}
.param R2a_E_n = {R1a_E_n/ ((2 * pi * fp1_E_n * C1a_E_n
+* R1a_E_n) - 1)}
.param actual1_E_n = {R2a_E_n / (R1a_E_n + R2a_E_n)}
.param G1_E_n = {1/actual1_E_n}
.param Enp=6.9n CEn=22f
.param BB=6.9n fC=2.7 M=0.58 fA={BB*(fC**M)}
.param BBi=0.16p fCi=5 Mi=0.75 fAi={BBi*(fCi**Mi)}
.param Mp=14.12 OSp=0.96
.param Ap=1.08 Bp=1.71 Cp=8.54 Dp=2.2e-2
.param Mn=20 OSn=1
.param An=1.11 Bn=2.33 Cn=6.86 Dn=2.13e-2
.ends ADA4077
